US08138347B2
a) 2,4-difluoro-N-{5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinyl}benzenesulfonamide
A solution of 5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinamine (82 mg, 0.27 mmol) in anhydrous pyridine (2.0 ml) was treated with neat 2,4-difluorobenzenesulfonyl chloride in one portion. The reaction was stirred at room temperature for 30 minutes then was purified directly by prep-HPLC. The combined, desired fractions were evaporated under reduced pressure to remove organic solvents then diluted with small portions of brine and saturated aqueous sodium bicarbonate. The basic solution was extracted with ethyl acetate then the extracts were dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting colorless film was crystallized from methylene chloride and diethyl ether. The solids were collected by filtration, rinsed with diethyl ether then vacuum dried to afford the title compound (219 mg, 48%) as a white solid. MS(ES)+ m/e 475 [M+H]+.

reactant | 5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinamine | 0.27 mmol, 82 mg | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C=1C=C(C=NC1)N | C19H14N4
reactant | 2,4-difluorobenzenesulfonyl chloride | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-difluoro-N-{5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinyl}benzenesulfonamide | 219 mg, 48% | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C=NC=C(C1)C=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1 | C25H16F2N4O2S
